US05053414
Synthesis of 2-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-2-oxo-N-ethylacetamide
A solution of 2 [(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-2-oxoacetic acid (98 mg) in THF (3 ml) was cooled to -20° C. Triethylamine (188 μl) and isobutyl chloroformate (77 μl) were added dropwise to the solution. The mixture was stirred for 20 mins at the same temperature. An aq. solution of ethylamine (70%; 200 μl) was added dropwise to the solution at the same temperature. The solution was stirred for 1 hr, while the temperature of the solution was raised to room temperature gradually. Water was added to the reaction solution. The mixture was extracted with EtOAc. The extract was washed, dried and evaporated. The residue was purified by column chromatography on silica gel (CH2Cl2 --CH3OH) to give the title compound (62 mg) having the following physical data:

reactant | [(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-2-oxoacetic acid | 98 mg | C(C1=CC=CC=C1)N(C(=O)CCC(=O)N1[C@@H](CCC1)C(C(=O)O)=O)C | C18H22N2O5
reactant | Triethylamine | 188 μl | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 77 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ethylamine | 200 μl | C(C)N | C2H7N
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 2-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-2-oxo-N-ethylacetamide | 62 mg | C(C1=CC=CC=C1)N(C(=O)CCC(=O)N1[C@@H](CCC1)C(C(=O)NCC)=O)C | C20H27N3O4
